.subckt sum p1 p2 p3 p4 c1 c2 c3 c4 s1 s2 s3 s4 vdd gnd

x6 C1 p1 s1 vdd gnd xor
x7 c2 p2 s2 vdd gnd xor
x8 C3 p3 s3 vdd gnd xor
x9 c4 p4 s4 vdd gnd xor

.ends sum