.subckt png A B p g vdd gnd
* x4 A Abar vdd gnd inv
* x5 B bbar vdd gnd inv
x1 A B p vdd gnd xor
x2 A B g1 vdd gnd nand
x3 g1 g vdd gnd inv

.ends png