.subckt inv x y vdd gnd

M11      y       x       gnd     gnd  CMOSN   W={width_N}   L={LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M21      y       x       vdd     vdd  CMOSP   W={width_P}   L={LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends inv
